US06794395B1
(49) 3-(Z)-{1-[3-(dimethylaminomethyl)-anilino]-1-phenyl-methylidene}-6-methoxy-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-6-methoxy-2-indolinone and 3-(dimethylaminomethyl)-aniline

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-6-methoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)OC)=C(C1=CC=CC=C1)OCC)=O | C20H19NO4
reactant | 3-(dimethylaminomethyl)-aniline | CN(C)CC=1C=C(N)C=CC1 | C9H14N2
product | 3-(Z)-{1-[3-(dimethylaminomethyl)-anilino]-1-phenyl-methylidene}-6-methoxy-2-indolinone | CN(C)CC=1C=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)OC)=O)C=CC1 | C25H25N3O2
